US05834434
N-BOC-S-trityl-cysteine-4-amino-3-methoxybenzoyl methionine methyl ester
N-BOC-S-trityl-cysteine (0.76 g, 1.74 mmol) in dry THF (27.5 ml) was reacted with Et3N (0.24 ml), IBCF (0.23 ml, 1.74 mmol) at -10° C. as described above. HCl-4-amino-3-methoxybenzoyl methionine methyl ester (0.55 g, 1.58 mmol) in dry CH2Cl2 (8.7 ml) with Et3N (0.30 ml) was added to the mixture and was allowed to stir overnight under nitrogen. It was worked up as described for N-BOC-S-trityl-cysteine-4-aminobenzoyl methionine methyl ester in Example 1, and the crude material was chromatographed on silica gel using a 2:1 mixture of hexanes and ethyl acetate to give 0.18 g (15.2%) of pure product. 1H NMR (CDCl3) 1.45 (9 H, s), 2.05-2.33 (5 H, m), 2.57-2.65 (2 H, m), 2.68-2.72 (1 H, m), 2.75-2.96 (1 H, m), 3.78 (3 H, s), 3.84 (3 H, s), 4.90-5.00 (1 H, m), 5.03-5.18 (1 H, m), 7.17-7.48 (17 H, m), 8.30-8.38 (1 H, m), 8.65 (1 H, br s).

reactant | N-BOC-S-trityl-cysteine | 1.74 mmol, 0.76 g | C(=O)(OC(C)(C)C)N[C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O | C27H29NO4S
reactant | Et3N | 0.24 ml | CCN(CC)CC | C6H15N
reactant | HCl 4-amino-3-methoxybenzoyl methionine methyl ester | 1.58 mmol, 0.55 g | Cl.COC([C@@H](NC(C1=CC(=C(C=C1)N)OC)=O)CCSC)=O
reactant | Et3N | 0.30 ml | CCN(CC)CC | C6H15N
reactant | N-BOC-S-trityl-cysteine 4-aminobenzoyl methionine methyl ester | C(=O)(OC(C)(C)C)N[C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O.COC([C@@H](NC(C1=CC=C(C=C1)N)=O)CCSC)=O
solvent | THF | 27.5 ml | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 8.7 ml | C(Cl)Cl | CH2Cl2
product | N-BOC-S-trityl-cysteine 4-amino-3-methoxybenzoyl methionine methyl ester | 0.18 g, 15.2% | C(=O)(OC(C)(C)C)N[C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O.COC([C@@H](NC(C1=CC(=C(C=C1)N)OC)=O)CCSC)=O | InChI=1S/C27H29NO4S.C14H20N2O4S/c1-26(2,3)32-25(31)28-23(24(29)30)19-33-27(20-13-7-4-8-14-20,21-15-9-5-10-16-21)22-17-11-6-12-18-22;1-19-12-8-9(4-5-10(12)15)13(17)16-11(6-7-21-3)14(18)20-2/h4-18,23H,19H2,1-3H3,(H,28,31)(H,29,30);4-5,8,11H,6-7,15H2,1-3H3,(H,16,17)/t23-;11-/m00/s1
